*CONDUCTION NMOS W1

.INCLUDE 32nm_MGK.pm
.OPTIONS GMIN=1e-020 ABSTOL=1e-18
*.INCLUDE INVERTER.sub

*Definizione dei parametri
.PARAM Lmin=32n
.PARAM Wmin=32n
.PARAM Ldiff=64n
.PARAM SUPPLY=0.9
.global vdd gnd
Vx vdd gnd 'SUPPLY'

Vin1 Va gnd 0

Mp drain_mp Va source_mp body_mp pmos W={2*Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Mn drain_mn Va source_mn body_mn nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}

V_source_mp source_mp vdd 0
V_drain_mp drain_mp Vout 0
V_body_mp body_mp gnd 'SUPPLY'
V_drain_mn drain_mn Vout 0
V_body_mn body_mn gnd 0
V_source_mn source_mn gnd 0

*Definizione del tipo di analisi
.CONTROL

*Voltages: drain gate source
*Current: drain gate source body

dc TEMP 85 85 85
print  V(drain_mp) V(Va) V(source_mp)
print I(V_drain_mp) I(Vin1) I(V_source_mp) I(V_body_mp)
print  V(drain_mn) V(Va) V(source_mn)
print I(V_drain_mn) I(Vin1) I(V_source_mn) I(V_body_mn)

quit
.ENDC
.END
